US09428501B2
A mixture of hydrochloride (200 mg) of [5-(piperidin-4-yl)-1H-benzimidazol-2-yl]{4-[4-(trifluoromethyl)benzyl]piperazin-1-yl}methanone obtained in the same manner as in Preparation Example 20, 6-methoxynicotinaldehyde (100 mg), triethylamine (140 μl), acetic acid (100 μl), and dichloromethane (4 ml) was stirred at room temperature for 10 minutes. After sodium triacetoxyborohydride (580 mg) was added to the reaction mixture at room temperature, the reaction mixture was stirred at room temperature for 2 hours, and then left to stand at room temperature overnight. A saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and extraction was carried out using chloroform. After the organic layer was dried over anhydrous sodium sulfate, the desiccant was removed, and then the solvent was evaporated under reduced pressure. After the obtained crude product was purified by amino silica gel column chromatography (chloroform-methanol), tosic acid monohydrate (69 mg) was added to a solution of the obtained oily material (110 mg) in acetone, and then the solvent was evaporated under reduced pressure. Ethanol (3 ml) and diisopropyl ether (20 ml) were added to the obtained residue, followed by stirring at room temperature. The resulting solid was collected by filtration, and then dried under reduced pressure, thereby obtaining (5-{1-[(6-methoxypyridin-3-yl)methyl]piperidin-4-yl}-1H-benzimidazol-2-yl){4-[4-(trifluoromethyl)benzyl]piperazin-1-yl}methanone ditosylate (180 mg) as an amorphous material. In addition, after the crude product obtained in the same manner as above was purified by amino silica gel column chromatography (chloroform-methanol), a mixture of the solid (200 mg) obtained by drying under reduced pressure after pulverising using acetonitrile and acetonitrile (10 ml) was stirred at 95° C. for 30 minutes, and tosic acid monohydrate (130 mg) was added thereto. The mixture was cooled to room temperature while stirring, and then stirred at room temperature for 7 days. The resulting solid was collected by filtration, and then dried under reduced pressure, thereby obtaining (5-{1-[(6-methoxypyridin-3-yl)methyl]piperidin-4-yl}-1H-benzimidazol-2-yl){4-[4-(trifluoromethyl)benzyl]piperazin-1-yl}methanone ditosylate (300 mg) as a crystal. The powder X-ray diffraction data of this crystal are shown in Tables below.

reactant | hydrochloride | 200 mg | Cl | ClH
reactant | [5-(piperidin-4-yl)-1H-benzimidazol-2-yl]{4-[4-(trifluoromethyl)benzyl]piperazin-1-yl}methanone | N1CCC(CC1)C1=CC2=C(NC(=N2)C(=O)N2CCN(CC2)CC2=CC=C(C=C2)C(F)(F)F)C=C1 | C25H28F3N5O
reactant | triethylamine | 140 μl | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 100 μl | C(C)(=O)O | C2H4O2
reactant | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 6-methoxynicotinaldehyde | 100 mg | COC1=NC=C(C=O)C=C1 | C7H7NO2
